US04812164
using 1-(4-bromo-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone and propargyl bromide with sodium hydride in dimethylformamide there is obtained 1-[4-bromo-2-fluoro-5-(2-propynyloxy)-phenyl]-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 136°-138° C.

reactant | 1-(4-bromo-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | BrC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C12H7BrF4N2O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-bromo-2-fluoro-5-(2-propynyloxy)-phenyl]-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | BrC1=CC(=C(C=C1OCC#C)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C15H9BrF4N2O3
